* PMOS Id–Vgs sweep (Sky130) 

.lib "/home/oliviag/skywater130nm/volare/sky130/versions/a918dc7c8e474a99b68c85eb3546b4ed91fe9e7b/sky130A/libs.tech/ngspice/sky130.lib.spice" tt_77k 


XM1 VDD gate GND GND sky130_fd_pr__pfet_01v8_lvt l=0.35 w=1.6 mult=1 m=1
Vgs gate GND 0
Vds VDD GND -1.48
 *begin user architecture code


.temp -196.15


.control
  set noaskquit



*TRANSFER CHARACTERISTIC: Id vs Vgs (stepping Vds)
*save i(Vds) v(gate) v(vdd)
dc Vgs 0 -1.85 -0.01  Vds 0 -1.85 -0.185
showmod m.xm1.msky130_fd_pr__pfet_01v8_lvt : vth0 u0 rdsw nfactor vsat eta0 delta
showmod m.xm1.msky130_fd_pr__pfet_01v8_lvt : vth0 u0 rdsw nfactor vsat eta0 delta > ogparam.txt
  
  set curplottype=family
  *plot -i(Vds) vs v(gate)
    setplot
    display
    shell pwd
    let id_axis = -vds#branch
    set raw_array = ( `cat ogparam.txt` )
    set vth_axis = $raw_array[11]
   wrdata vg_sweep/p_vgs_sweep_family.txt gate id_axis vdd 
    
reset
dc Vgs 0 -1.85 -0.01  Vds -0.01 -0.011 -1
  
  set curplottype=family
  *plot -i(Vds) vs v(gate)
    setplot
    display
    shell pwd
    let idB = -vds#branch
    set raw_array = ( `cat ogparam.txt` )
    set vth_axis = $raw_array[11]
   wrdata vg_sweep/idVg_vd_0p010.txt gate idB vdd 



* OUTPUT CHARACTERISTIC: Id vs Vds (stepping Vgs)
reset
  *save i(Vds) v(gate) v(vdd)
  dc Vds 0 -1.85 -0.01  Vgs 0 -1.85 -0.185
setplot
display
shell pwd
  set curplottype=family
  *plot -i(Vds) vs v(vdd)
    let ax_id = -vds#branch
    set raw_array = ( `cat ogparam.txt` )
    set vth_axis = $raw_array[11]
wrdata vd_sweep/p_vds_sweep_family.txt gate ax_id vdd 
 

  set filetype=csv
  *wrdata  /home/oliviag/ngspice-skywater-sims/pfet_mod/l_0p35_w_1p6/vd_sweep/p_vds_sweep_family.csv v(gate)  -i(Vds) v(vdd)
.endc





*.save all


* end user architecture code

*.GLOBAL GND
*.GLOBAL VDD
.end
